US08025863B2
A 50 mL flask was charged with 1.02 g of 1-methyl-4-cyclohexylpiperazine, 20 mL of anhydrous ethanol, and 0.88 g of iodomethane. After 3 days of stirring under a nitrogen atmosphere the solution was placed into a new flask and quenched with 200 mL ether producing a white crystalline solid. The solid was filtered and rinsed with additional ether and then dried in a vacuum oven overnight at 30° C. and −25 bar to give 1.74 g of 1,1-dimethyl-4-cyclohexylpiperazin-1-ium iodide.

reactant | 1-methyl-4-cyclohexylpiperazine | 1.02 g | CN1CCN(CC1)C1CCCCC1 | C11H22N2
reactant | iodomethane | 0.88 g | IC | CH3I
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1,1-dimethyl-4-cyclohexylpiperazin-1-ium iodide | 1.74 g | [I-].C[N+]1(CCN(CC1)C1CCCCC1)C | InChI=1S/C12H25N2.HI/c1-14(2)10-8-13(9-11-14)12-6-4-3-5-7-12;/h12H,3-11H2,1-2H3;1H/q+1;/p-1
